US04020082
2-isopropylaminomethyl-4,5-diphenyloxazole hydrochloride
A mixture of 8 g. 2-chloromethyl-4,5-diphenyloxazole (prepared as described in Example 1 a), 8g. isopropylamine and 50 ml. anhydrous benzene was kept in a stoppered flask for 48 hours at room temperature.

reactant | 2-chloromethyl-4,5-diphenyloxazole | ClCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H12ClNO
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-isopropylaminomethyl-4,5-diphenyloxazole hydrochloride | Cl.C(C)(C)NCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C19H20N2O.ClH/c1-14(2)20-13-17-21-18(15-9-5-3-6-10-15)19(22-17)16-11-7-4-8-12-16;/h3-12,14,20H,13H2,1-2H3;1H
